US05840751
6-[1,1'-Biphenyl]-4-yl-5,6-dihydro-4-hydroxy-2H-pyran-2-one, (±)
The title compound was prepared as described in General Method 1 using 13.0 g of ethyl acetoacetate, 5.3 g of NaH 50% dispersion in oil, 60 mL of 1.6M n-butyl lithium in hexane, 16.3 g of 4-biphenylcarboxaldehyde and 300 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 15 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 150°-152° C.). 1H NMR (CDCl3) δ 2.97 (dd, 2 H), 3.60 (dd, 2 H) 5.77 (dd, 1 H), 7.27-7.68 (m, 9 H).

reactant | ethyl acetoacetate | 13.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaH | 5.3 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 60 mL | C(CCC)[Li]
reactant | 4-biphenylcarboxaldehyde | 16.3 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 6-[1,1'-Biphenyl]-4-yl-5,6-dihydro-4-hydroxy-2H-pyran-2-one | C1(=CC=C(C=C1)C1CC(=CC(O1)=O)O)C1=CC=CC=C1 | C17H14O3
